US06538148B2
Step A: Preparation of (1-Cyanocyclohexa-2,5-dienyl)acetic acid
Lithium (0.87 g, 125 mmol) was added in portions to a stirred solution of benzonitrile (5.1 mL, 5.2 g, 50 mmol) and t-BuOH (4.8 mL, 3.7 g, 50 mmol) in THF (5 mL) and NH3 (25 mL). After stirring at −78° C. for 30 minutes, a solution of bromoacetic acid ammonium salt (prepared by mixing bromoacetic acid [13.90 g, 100.0 mmol], THF (15 mL), and N2 (50 mL) at −78° C. and stirring for 1.5 hours) was added dropwise to the reaction. After stirring at −78° C. for 1 hour, ammonium chloride (20.9 g, 391 mmol) was added in portions. The reaction mixture was slowly warmed to room temperature while the NH3 was removed with a stream of N2. Water (75 mL) was added, and the mixture extracted with MTBE (3×50 mL). The stirred aqueous layer was cooled to 0-5° C. acidified to pH=1 with 37% HCl, and extracted with MTBE (3×50 mL). The combined organic extracts of the acidified aqueous layer were dried (MgSO4) and concentrated under reduced pressure to afford 2.49 g (31%) of product as a white solid.

reactant | Lithium | 125 mmol, 0.87 g | [Li] | Li
reactant | benzonitrile | 50 mmol, 5.1 mL, 5.2 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | t-BuOH | 50 mmol, 4.8 mL, 3.7 g | CC(C)(C)O | C4H10O
reactant | bromoacetic acid ammonium salt | 100.0 mmol, 15 mL, 13.90 g | [NH4+].BrCC(=O)[O-]
reactant | ammonium chloride | 391 mmol, 20.9 g | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NH3 | 25 mL | N | H3N
product | (1-Cyanocyclohexa-2,5-dienyl)acetic acid | 2.49 g, 31% | C(#N)C1(C=CCC=C1)CC(=O)O | C9H9NO2
